US04971986
(a) Ethyl-3-formylbenzimidate hydrochloride
59.7 ml (1.025 mol) of absolute ethanol are added to a solution of 86.7 g (0.662 mol) of 3-formylbenzonitrile in 530 ml of absolute ether and the whole is cooled to 0°. The reaction solution is saturated with dry hydrochloric acid gas and then left to stand for six days at 0°. After filtering off a fine precipitate, 1 liter of ether is added to the reaction solution, whereupon the title compound crystallises out; m.p. 126°-128° (with foaming).

reactant | ethanol | 1.025 mol, 59.7 ml | C(C)O | C2H6O
reactant | 3-formylbenzonitrile | 0.662 mol, 86.7 g | C(=O)C=1C=C(C#N)C=CC1 | C8H5NO
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 530 ml | CCOCC | C4H10O
product | Ethyl-3-formylbenzimidate hydrochloride | Cl.C(C)OC(C1=CC(=CC=C1)C=O)=N | InChI=1S/C10H11NO2.ClH/c1-2-13-10(11)9-5-3-4-8(6-9)7-12;/h3-7,11H,2H2,1H3;1H
